US06451810B1
Quinoline-2-carbonyl chloride (0.28 g in 10 ml dichloromethane, 1.46 nmmol) was added dropwise to a stirring solution of 1-(4-aminobutyl)-2-(4-methoxybenzyl)-1H-imidazo[4,5-c]quinolin-4-amine (0.49 g, 1.3 mmol), dichloromethane (140 ml) and triethylamine (0.5 ml). The reaction was maintained for 17 hours and then concentrated in vacuo. The yellow residue was partitioned between dichloromethane and saturated aqueous sodium bicarbonate. The organic fraction was dried (MgSO4), filtered, and concentrated. The crude residue was purified by flash column chromatography (silica gel, gradient elution using dichloromethane to 95:5 dichloromethanemethanol) to provide 0.19 g of N2-{4-[4-amino-2-(4-methoxybenzyl)-1H-imidazo[4,5-c]quinolin-1-yl]butyl}-2-quinolinecarboxamide as an off white solid, m.p. 95.1-97.4° C. 1H NMR (300 MHz, DMSO-d6) δ8.97 (t, J=6.0 Hz, 1H), 8.56 (d, J=8.4 Hz, 1H), 8.16-8.07 (m, 3H), 7.96 (d, J=7.7 Hz, 1H), 7.87 (m, 1H), 7.72 (m, 1H), 7.58 (dd, J=8.3, 1.1 Hz, 1H), 7.31 (m, 1H), 7.23 (d, J=8.7 Hz, 2H), 7.08 (m, 1H), 6.82 (d, J=8.7 Hz, 2H), 6.58 (broad s, 2H), 4.50 (m, 2H), 4.33 (s, 2H), 3.63 (s, 3H), 3.34 (m, 2H), 1.65 (m, 4H); MS (EI) m/e 530.2431 (530.2430 calcd for C32H30N6O2).

reactant | Quinoline-2-carbonyl chloride | 10 ml, 0.28 g | N1=C(C=CC2=CC=CC=C12)C(=O)Cl | C10H6ClNO
reactant | 1-(4-aminobutyl)-2-(4-methoxybenzyl)-1H-imidazo[4,5-c]quinolin-4-amine | 1.3 mmol, 0.49 g | NCCCCN1C(=NC=2C(=NC=3C=CC=CC3C21)N)CC2=CC=C(C=C2)OC | C22H25N5O
reactant | dichloromethane | 140 ml | ClCCl | CH2Cl2
solvent | triethylamine | 0.5 ml | C(C)N(CC)CC | C6H15N
product | N2-{4-[4-amino-2-(4-methoxybenzyl)-1H-imidazo[4,5-c]quinolin-1-yl]butyl}-2-quinolinecarboxamide | 0.19 g | NC1=NC=2C=CC=CC2C2=C1N=C(N2CCCCNC(=O)C2=NC1=CC=CC=C1C=C2)CC2=CC=C(C=C2)OC | C32H30N6O2
